US06420375B1
Preparation of 2-ethoxycarbonylbenzofurane
A mixture of salicylaldehyde (53.10 g), K2CO3 (97 g) and ethyl bromoacetate (73.30 g) in ethanol (200 ml) was refluxed for 6 hours. The reaction mixture was diluted with ethyl acetate, washed with water, 1N NaOH and brine, dried and concentrated to give the titled compound (27.40 g) as a colorless oil

reactant | salicylaldehyde | 53.10 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
reactant | K2CO3 | 97 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 73.30 g | BrCC(=O)OCC | C4H7BrO2
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-ethoxycarbonylbenzofurane | 27.40 g | C(C)OC(=O)C=1OC2=C(C1)C=CC=C2 | C11H10O3
